Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
___ male without prior medical history, who
presents for evaluation of recurrent syncope and melena, found 
to
have an acute Hgb drop, c/f upper GI bleed. 

 
Major Surgical or Invasive Procedure:
TTE (___): 
Normal study. Normal biventricular cavity sizes and 
regional/global biventricular systolic function. No valvular 
pathology or pathologic flow identified. Normal estimated 
pulmonary artery systolic pressure. No structural cardiac cause 
of syncope identified.

EGD (___):
Medium sized hiatal hernia was seen. Z line noted at 37 cm, with 
hiatal narrowing at 40 cm from the incisors. Grade B esophagitis 
was seen in the distal esophagus. A single 7 mm non-bleeding 
nodule of benign appearance was seen in the esophagus. Multiple 
cold forceps biopsies were performed for histology in the 
esophageal nodule. Multiple patchy non-bleeding erosions were 
noted in the whole stomach. Normal mucosa was noted in the whole 
examined duodenum. 

 
History of Present Illness:
___ male without prior medical history, who
presents for evaluation of recurrent syncope and melena, found 
to
have an acute Hgb drop, c/f upper GI bleed. 

The patient stated that he had that he had ___ syncopal episodes
throughout the day on ___, all unprovoked and without any
prodomes. The first one occurred at 3:30am of ___ upon 
standing,
and patient blacked out for a few seconds. He subsequently felt
fatigued, light-headed, and weak all day, but was able to go to
work. The patient had an episode of left-sided chest pain while
at work, along with associated shortness of breath and
lightheadedness. He subsequently drove from his home to ___ to
___ to attend a ___ game, where he syncopized again while
seated on a bench, losing consciousness for several seconds. He
was then brought to the ED. While in the ED waiting room, he 
went
to use the bathroom, and had a syncopal episode. A trigger was
called to the bathroom, where staff found the patient to be
diaphoretic and stating he felt "very hot." No seizure history,
and no movement of extremities associated with any of his
syncopal episodes. 

The patient denied any recent weight loss, but endorsed
intermittent nausea and abdominal pain without vomiting after
eating for the past several months. Also endorsed significant
recent NSAID use (2 ibuprofen and 2 full-dose aspirin daily) due
to musculoskeletal pains from his work in ___. He
revealed that he has had black bowel movements for the past 2
weeks. 

In the ED, initial vitals were:
T96.8, HR 110, BP 132/76, RR 18, 99%RA 

Exam was notable for:
Pale & diaphoretic on arrival, tachycardic, non-labored
respirations. Guaiac positive stool, noted to be melena. No
petechial rash. 

Labs were notable for:
WBC 18.3 > 10.3 > 8.8, Hgb 10.8 > 9.2 > 8.2, Plt 360 > 234 > 211 

Na 142, K 3.6, Cl 104, Bicarb 23, BUN 34, Cr 1.0, glucose 87 
Ca 9.3, Mag 1.9, Phos 2.6
Trop <0.01 x2
D-dimer <215
___ 12.4, PTT 24.1, INR 1.1

Studies were notable for:
- CTA Chest: No evidence of pulmonary embolism or aortic
abnormality.
- CT Head w/o contrast: No acute intracranial findings. 
- CT C-spine w/o contrast: No acute fracture or traumatic
malalignment. Suspected 1.6 cm right thyroid nodule for which
nonurgent thyroid ultrasound is suggested to further evaluate. 
- CXR: No acute cardiopulmonary process. 

The patient was given:
- 2L LR, 1L NS 
- IV pantoprazole 40mg 

GI was consulted, and took the patient for an EGD on ___, which
showed esophagitis with small erosions, but no blood. They
recommended to continue PPI BID, and rescope in 8 weeks.

Vitals on transfer:
T99.0, HR 93, BP 132/81, RR18, 99%RA 

On arrival to the floor, the patient endorsed the above history.
He had not had a syncopal episode since his episode in the
bathroom in the ED. He denies any N/V, chest pain, SOB,
dizziness, LH, weakness, or fatigue at present. His only
complaint was ongoing muscle aches in his neck, as well as 
muscle
aches in his chest, both of which he states are chronic and
likely related to his construction use. He did not that he had
several syncopal episodes ___ years ago, no associated with any
melena. He reportedly went to the ED for this issue, and was 
told
that he had a full work-up that was entirely normal. No interval
syncopal episodes in the last ___ years, until yesterday.  

REVIEW OF SYSTEMS:
==================
Per HPI, otherwise, 10-point review of systems was within normal
limits.

 
Past Medical History:
PAST MEDICAL/SURGICAL HISTORY:
==============================
- Chronic Back and Muscle Pain 
- History of Polysubstance Use, now ___ years sober 

 
Social History:
___
Family History:
FAMILY HISTORY:
===============
Patient has a significant family history of cardiac disease,
including a brother who died from a MI at age ___. His father had
___ MIs, and passed away from an MI at the age of ___. Strong
history of DM and HTN on father's side of family. Sister has
breast cancer, diagnosed at age ___. Maternal grandfather died
from colon cancer. 

 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
ADMISSION PHYSICAL EXAM:
========================
VITALS: ___ Temp: 98.2 PO BP: 134/74 Lying HR: 82 RR:
16 O2 sat: 97% O2 delivery: Ra 
GENERAL: Alert and interactive. In no acute distress. Normal
pallor, not diaphoretic. 
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: No CVA tenderness.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No epigastric tenderness. No
organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. No rashes. Multiple tattoos. 
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength throughout. Normal sensation.

DISCHARGE PHYSICAL EXAM
=======================
VS: Temp: 98.1 (Tm 98.2), BP: 129/77 (110-134/65-77), HR: 83
(82-89), RR: 18 (___), O2 sat: 99% (97-100), O2 delivery: Ra  
GENERAL: Alert and interactive. In no acute distress. Normal
pallor, not diaphoretic. 
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No epigastric tenderness. 
EXTREMITIES: Pulses DP/Radial palpable bilaterally.
SKIN: Warm. No rashes. Multiple tattoos. 
NEUROLOGIC: AOx3. CN intact. Moving all 4 limbs
spontaneously. ___ strength throughout.

 
Pertinent Results:
ADMISSION LABS
==============
___ 08:38PM BLOOD WBC-18.3* RBC-3.69* Hgb-10.8* Hct-32.5* 
MCV-88 MCH-29.3 MCHC-33.2 RDW-12.7 RDWSD-40.3 Plt ___
___ 08:38PM BLOOD Neuts-68.2 ___ Monos-8.5 Eos-0.7* 
Baso-0.5 Im ___ AbsNeut-12.45* AbsLymp-3.71* AbsMono-1.56* 
AbsEos-0.12 AbsBaso-0.10*
___ 08:38PM BLOOD Plt ___
___ 08:42PM BLOOD ___ PTT-24.1* ___
___ 08:38PM BLOOD Glucose-87 UreaN-34* Creat-1.0 Na-142 
K-3.6 Cl-104 HCO3-23 AnGap-15
___ 08:38PM BLOOD Calcium-9.3 Phos-2.6* Mg-1.9

DISCHARGE LABS
==============
___ 07:15AM BLOOD WBC-6.8 RBC-2.87* Hgb-8.5* Hct-25.6* 
MCV-89 MCH-29.6 MCHC-33.2 RDW-12.9 RDWSD-41.1 Plt ___
___ 07:15AM BLOOD Plt ___
___ 07:15AM BLOOD Glucose-94 UreaN-18 Creat-0.9 Na-140 
K-4.4 Cl-105 HCO3-25 AnGap-10
___ 07:15AM BLOOD ALT-28 AST-20 LD(LDH)-141 AlkPhos-56 
TotBili-0.2
___ 02:05AM BLOOD cTropnT-<0.01
___ 07:15AM BLOOD Albumin-3.7 Calcium-8.1* Phos-2.6* Mg-2.0

IMAGES
======

TTE (___): 
Normal study. Normal biventricular cavity sizes and 
regional/global biventricular systolic function. No valvular 
pathology or pathologic flow identified. Normal estimated 
pulmonary artery systolic pressure. No structural cardiac cause 
of syncope identified.

EGD (___):
Medium sized hiatal hernia was seen. Z line noted at 37 cm, with 
hiatal narrowing at 40 cm from the incisors. Grade B esophagitis 
was seen in the distal esophagus. A single 7 mm non-bleeding 
nodule of benign appearance was seen in the esophagus. Multiple 
cold forceps biopsies were performed for histology in the 
esophageal nodule. Multiple patchy non-bleeding erosions were 
noted in the whole stomach. Normal mucosa was noted in the whole 
examined duodenum. 

CT Head (___):
No acute intracranial findings. 

CTA Chest (___): 
No evidence of pulmonary embolism or aortic abnormality. 
  
CT C-Spine (___): 
No acute fracture or traumatic malalignment. 
Suspected 1.6 cm right thyroid nodule for which nonurgent 
thyroid ultrasound  is suggested to further evaluate. 

MICRO
=====

Urine culture (___): negative
Blood culture (___): negative
 
Brief Hospital Course:
___ with no PMH presents with syncope and chest pain, found to
have anemia c/w UGIB s/p endoscopy on ___ which demonstrated
esophagitis.

ACUTE/ACTIVE ISSUES:
====================

# Syncope: Syncopal episodes most c/w vasovagal events possibly 
exacerbated by GIB discussed below. Orthostatic VS negative. 
Lower c/f cardiogenic etiology though pt has significant family 
history of coronary disease. Pt was monitored on telemetry 
without e/o arrhythmia while inpatient. He was advised to stay 
for further telemetry monitoring but decided to follow up with 
PCP instead and requested discharge. TTE ___ was without acute 
abnormalities. 

# Upper GIB/Acute Anemia: Pt admitted with Hb 10, down-trended 
to
8. S/p EGD ___ which demonstrated esophagitis/erosions. Likely
iso NSAID use for MSK pain discussed below. Pt discharged on 
omeprazole 40 mg QD for 8 weeks minimum. He was advised to 
schedule EGD/colonoscopy in ___ months as outpatient. He should 
NOT use any NSAIDS.

# Chest Pain: Atypical CP likely due to syncope/anemia/bleeding
as above. Less likely ACS though pt has significant family
history. TTE without WMA c/f ischemia. Pt advised to schedule a 
stress test after discharge.

# Chronic MSK Pain: Patient has had recent heavy NSAID use to
treat muscle aches related to his work in ___. In the
past, he has also used Vicodin for pain relief, although has
been sober for ___ years. Pt can take Tylenol PRN. 

TRANSITIONAL ISSUES:
====================
[ ] Suspected 1.6 cm right thyroid nodule for which
non-urgent thyroid ultrasound is suggested to further evaluate.
[ ] PPI daily x 8 weeks (longer if ongoing NSAID use)
[ ] outpatient ___ (to be arranged through PCP in ___ within next ___ months
[ ] No NSAIDs
[ ] Schedule exercise stress test
[ ] F/u biopsy from EGD 
[ ] F/u blood cultures

# CODE: FULL Confirmed 
# CONTACT: ___, sister-in-law, ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 325 mg PO BID:PRN Muscle aches 
2. Ibuprofen 400-600 mg PO Q8H:PRN Pain - Mild 

 
Discharge Medications:
1.  Omeprazole 40 mg PO DAILY 
RX *omeprazole 40 mg 1 capsule(s) by mouth once a day Disp #*30 
Capsule Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Vasovagal Reaction
Upper Gastrointestinal Bleed
Atypical Chest Pain 

SECONDARY DIAGNOSIS
===================
Musculoskeletal Pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure to be part of your care. 

You presented to the hospital with several episodes of fainting. 
These were likely due to vasovagal reactions possibly 
exacerbated by a gastrointestinal bleed. You received an 
echocardiogram which was normal and were monitored on telemetry. 
We recommended you stay for additional monitoring on telemetry 
which you deferred. 

You underwent an endoscopy which showed irritation of your 
esophagus. You should continue to take omeprazole 40 mg daily 
for at least 8 weeks. You will need to have a repeat endoscopy 
and colonoscopy in the next ___ months. Do NOT take any NSAID 
medications  (ibuprofen, aleve). Tylenol is okay up to 4 g/day. 

You should also have a stress test scheduled.

Please follow up with your PCP to schedule these follow up 
tests.

we wish you the best,
YOUR ___ TEAM

 
Followup Instructions:
___